US06184225B2
A mixture of 4-(4-chloro-2-fluorophenoxy)-7-hydroxy-6-methoxyquinazoline (160 mg, 0.5 mmol), 2-bromoethyl methyl ether (83 mg, 0.6 mmol) and potassium carbonate (207 mg. 1.5 mmol) in DMF (3 ml) was heated at 180° C. for 45 minutes. The reaction mixture was allowed to cool, diluted with water and acidified to pH3.5. This aqueous mixture was extracted with ethyl acetate and the organic extract was washed with water and brine, dried (MgSO4) and the solvent removed by evaporation. The residue was purified by flash chromatography eluting with methylene chloride/ether (7/3) to give 4-(4-chloro-2-fluorophenoxy)-7-(2-methoxyethoxy)-6-methoxyquinazoline (130 mg, 68%).

reactant | 4-(4-chloro-2-fluorophenoxy)-7-hydroxy-6-methoxyquinazoline | 0.5 mmol, 160 mg | ClC1=CC(=C(OC2=NC=NC3=CC(=C(C=C23)OC)O)C=C1)F | C15H10ClFN2O3
reactant | 2-bromoethyl methyl ether | 0.6 mmol, 83 mg | COCCBr | C3H7BrO
reactant | potassium carbonate | 1.5 mmol, 207 mg | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 3 ml | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 4-(4-chloro-2-fluorophenoxy)-7-(2-methoxyethoxy)-6-methoxyquinazoline | 130 mg, 68% | ClC1=CC(=C(OC2=NC=NC3=CC(=C(C=C23)OC)OCCOC)C=C1)F | C18H16ClFN2O4
